US09281483B2
The above compound, 2-amino-2′-methyl-biphenyl (11.0 g, 60 mmol) was added to dry toluene (250 mL) containing triethyl amine (24 g, 24 mmol) and stirred under a nitrogen pad. Ethyl chloroformate (26 g, 240 mmol) was slowly added to the stirred solution via a syringe. The reaction mixture was washed with brine and the organics separated, dried over magnesium sulfate and concentrated to give N-ethoxycarbonyl-2-amino-2′methyl biphenyl as a colorless oil (7.0 g, 46% yield) whose structure was confirmed by GCMS and NMR.

reactant | 2-amino-2′-methyl-biphenyl | 60 mmol, 11.0 g | NC1=C(C=CC=C1)C1=C(C=CC=C1)C | C13H13N
reactant | triethyl amine | 24 mmol, 24 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloroformate | 240 mmol, 26 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N-ethoxycarbonyl-2-amino-2′methyl biphenyl | 7.0 g, 46% yield | C(C)OC(=O)NC1=C(C=CC=C1)C1=C(C=CC=C1)C | C16H17NO2
